US07960409B2
Step 2: Methyl 2-oxo-4-(3-pyridinyl)-2H-chromene-7-carboxylate
To a mixture of 2-oxo-4-pyridin-3-yl-2H-chromen-7-yl trifluoromethanesulfonate (6.4 g, 17.24 mmol) in DMSO (100 mL) stirred at room temperature, triethylamine (4.85 mL, 34.5 mmol) was added. The reaction was then purged twice with carbon monoxide and palladium dichloride-(dppf)-dichloromethane (2.82 g, 3.45 mmol) was added. The mixture was purged once again with carbon monoxide and the reaction was stirred overnight at 65° C. under carbon monoxide atmosphere. After cooling, the reaction was quenched by the addition of an aqueous saturated ammonium chloride solution. The aqueous layer was extracted (3×) with ethyl acetate and the combined organic extracts were dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (acetone/CH2Cl2, 10:90). MS (+ESI) 282.2 (M+H)+.

reactant | 2-oxo-4-pyridin-3-yl-2H-chromen-7-yl trifluoromethanesulfonate | 17.24 mmol, 6.4 g | FC(S(=O)(=O)OC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1)(F)F | C15H8F3NO5S
reactant | triethylamine | 34.5 mmol, 4.85 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | Methyl 2-oxo-4-(3-pyridinyl)-2H-chromene-7-carboxylate | O=C1OC2=CC(=CC=C2C(=C1)C=1C=NC=CC1)C(=O)OC | C16H11NO4
